US07470699B2
Preparation of 4-[6-(2-Fluoro-4-methanesulfonyl-phenylamino)-5-(N-hydroxycarbamimidoyl)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A99)
4-[5-Cyano-6-(2-fluoro-4-methanesulfonyl-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (0.5 g, 1.04 mmol) was dissolved in the mixture ethanol/water (30 mL/14 mL) and heated to 80° C. Hydroxylamine hydrochloride (7.22 g, 104 mmol) and potassium carbonate (14.5 g, 105 mmol) were slowly added and the mixture kept stirring at 80° C. for 1 h. The crude was filtered and the retrieved solid was thoroughly washed with acetonitrile. The filtrate was concentrated under reduced pressure, yielding a yellow solid residue, which was purified by HPLC to afford Compound A99 (0.51 g, 78%). Exact mass calculated for C21H27FN6O6S 510.17, found 511.2 (MH+).

reactant | 4-[5-Cyano-6-(2-fluoro-4-methanesulfonyl-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 1.04 mmol, 0.5 g | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C#N)NC1=C(C=C(C=C1)S(=O)(=O)C)F | C21H24FN5O5S
reactant | Hydroxylamine hydrochloride | 104 mmol, 7.22 g | Cl.NO
reactant | potassium carbonate | 105 mmol, 14.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol water | 30 mL | C(C)O.O
product | 4-[6-(2-Fluoro-4-methanesulfonyl-phenylamino)-5-(N-hydroxycarbamimidoyl)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C(NO)=N)NC1=C(C=C(C=C1)S(=O)(=O)C)F | C21H27FN6O6S
